data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3357,3812,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N:15]=[O+:16][NH-:17]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:15]([C:13]([NH:12][CH3:11])=[O:14])[O:16][NH:17]2,water,298.15,19.41020562934276,-31.318904125249983
1206,1313,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]([O:6][CH3:7])=[C:8]([O:9][CH3:10])[O:11][CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]([O:9][CH3:10])([O:11][CH3:12])[C:19]([CH3:20])([C:21](=[O:22])[O:23][CH3:24])[N:18]=[C:17]1[C:15]([O:14][CH3:13])=[O:16],water,298.15,26.940039926207,-27.428468595605327
2252,2497,[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([C:11](=[O:12])[NH:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][C:22]#[N+:23][C-:24]([C:25](=[O:26])[NH:27][CH3:28])[C:29](=[O:30])[O:31][CH3:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([C:11](=[O:12])[NH:13][CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:24]([C:25](=[O:26])[NH:27][CH3:28])([C:29](=[O:30])[O:31][CH3:32])[N:23]=[C:22]1[CH3:21],water,298.15,26.142182921496392,-14.487476078760157
1647,1819,[CH3:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[o:25]1.[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:16]1([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][C:14]2([C:12]([CH3:11])=[O:13])[O:25][C:23]1=[O:24],water,298.15,29.437226156502906,6.582767644167867
436,478,[CH3:15][O:16][C:17](=[O:18])[CH-:19][N+:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[N:21]=[N:20][CH:19]3[C:17]([O:16][CH3:15])=[O:18],water,298.15,27.86980579675093,-24.31207494599536
417,455,[CH3:1][O:2][C:3]([CH3:4])=[C:5]([CH3:6])[CH3:7].[CH3:8][O:9][C:10](=[O:11])[c-:12]1[nH+:13][c:14]([C:15]([CH3:16])=[O:17])[o:18][c:19]1=[O:20]>>[CH3:1][O:2][C:3]1([CH3:4])[C:5]([CH3:6])([CH3:7])[C:12]2([C:10]([O:9][CH3:8])=[O:11])[NH:13][C:14]1([C:15]([CH3:16])=[O:17])[O:18][C:19]2=[O:20],water,298.15,30.45084377138237,5.402487288959047
4919,5604,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10](=[O:11])[O:12][CH3:13])[N+:14]([CH3:15])=[C:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10](=[O:11])[O:12][CH3:13])[N:14]([CH3:15])[C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,34.370771217588306,-26.40024932155961
2834,3149,[CH3:23][O:24][C:25](=[O:26])[C:27](=[NH+:28][C-:29]([C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[C:39](=[O:40])[O:41][CH3:42].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:29]([C:30]([CH3:31])=[O:32])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[NH:28][C:27]2([C:25]([O:24][CH3:23])=[O:26])[C:39](=[O:40])[O:41][CH3:42],water,298.15,24.96764976483315,-21.392129632380165
1173,1275,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20](=[O:21])[O:22][CH3:23])[n+:24]1[CH3:25].[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:19]1([C:20](=[O:21])[O:22][CH3:23])[C:17](=[O:18])[O:16][C:15]3([C:13]([NH:12][CH3:11])=[O:14])[N:24]1[CH3:25],water,298.15,27.09824570599216,-14.494661001663449
1252,1368,[CH3:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[c-:20]([C:21]([CH3:22])=[O:23])[o+:24]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]1([C:14]([CH3:13])=[O:15])[O:17][C:18](=[O:19])[C:20]2([C:21]([CH3:22])=[O:23])[O:24]1,water,298.15,21.42789105064412,-20.53711843316437
4621,5268,[CH3:9][NH:10][C:11](=[O:12])[c:13]1[o:14][c:15](=[O:16])[c-:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n+:24]1[CH3:25].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:17]2([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[C:15](=[O:16])[O:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[N:24]2[CH3:25],water,298.15,23.881786201869893,-6.646759790316961
